### PR TITLE
feat(LinearAlgebra/Matrix): determinant of elementary matrix

### PR DESCRIPTION
**Pull request by shuxuezhuyi**
---

- [x] depends on: #7762
- [ ] depends on: #7765

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean [hunk 1]
```diff
@@ -0,0 +1,109 @@
...
+  have h := blockTriangular_Elementary id i j c
+  cases h with
+  | inl h =>
+    rw [det_of_upperTriangular h]
+    unfold Elementary
+    simp [hS]
+  | inr h =>
+    rw [det_of_lowerTriangular _ h]
+    unfold Elementary
+    simp [hS]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean:109]: I'm afraid this result also already exists, it's [`Matrix.det_transvection_of_ne`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Transvection.html#Matrix.det_transvection_of_ne)

**Review by eric-wieser — CHANGES_REQUESTED** [review]

File: Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean [hunk 2]
```diff
@@ -0,0 +1,109 @@
...
+
+@[simp]
+theorem det_Elementary {i j : n} (hij : i ≠ j) (c : R): det (Elementary i j c) = 1 := by
+  have hS (k : n) : Single i j c k k = 0 := by
+    unfold Single
+    simp only [of_apply, ite_eq_right_iff, and_imp]
+    intro hki hkj
+    rw [hki.symm.trans hkj] at hij
+    tauto
+  haveI := LinearOrder.lift' (Fintype.equivFin n) (Fintype.equivFin n).injective
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean:99]: I'm not sure if we have this result

File: Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean [hunk 3]
```diff
@@ -0,0 +1,109 @@
...
+
+@[simp]
+theorem det_Elementary' (i : n) (c : R): det (Elementary i i c) = 1 + c := by
+  let d (j : n) : R :=
+    if j = i then 1 + c
+    else 1
+  have : Elementary i i c = diagonal d := by
+    unfold Elementary Single diagonal
+    aesop
+  aesop
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean:89]: I think this result might be missing from mathlib.
